US04640795
To a solution of sodium methoxide prepared by dissolving metallic sodium (2.8 g) dissolved in anhydrous methanol (20 cc) were added 3,4-difluorobenzamidine hydrochloride (11.6 g, 0.06 mol) and α-ethyl-β-dimethylaminoacrolein (8.9 g, 0.066 mol), followed by heating the mixture under reflux for 6 hours, thereafter distilling off methanol at the atmospheric pressure, adding toluene (20 cc) to the reaction residue to extract the product, washing the extraction solution with water, drying the toluene layer over anhydrous sodium sulfate, filtering off the drying agent, distilling off toluene, and recrystallizing the residue from ethanol (20 cc) to obtain the objective 5-ethyl-2-(3,4-difluorophenyl)pyrimidine (7.0 g) having a m.p. of 86.6° C. Its 1H-NMR (proton nuclear magnetic resonance) spectra are shown in FIG. 1.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 2.8 g | [Na] | Na
reactant | 3,4-difluorobenzamidine hydrochloride | 0.06 mol, 11.6 g | Cl.FC=1C=C(C(=N)N)C=CC1F
solvent | methanol | 20 cc | CO | CH4O
product | 5-ethyl-2-(3,4-difluorophenyl)pyrimidine | 7.0 g | C(C)C=1C=NC(=NC1)C1=CC(=C(C=C1)F)F | C12H10F2N2
